US04070496
A solution of di-isobutylphosphinyl chloride* (3.9g., 0.02 mole) in tetrahydrofuran (50 ml.) was added dropwise to a refluxing solution of n-heptylmagnesium bromide (prepared from magnesium turnings (1.2g., 0.05 mole), n-heptyl bromide (9.0g., 0.05 mole) and tetrahydrofuran (100 ml.)). The mixture was heated under reflux for 18 hours. After cooling to room temperature, the reaction mixture was poured onto ice and 2N HCl (300 ml.), and extracted with methylene dichloride (4 × 200 ml.). The combined extracts were washed with lithium hypochlorite solution, 2N NaOH solution and finally with water, then dried (MgSO4). The solvent was removed by distillation and the residual yellow oil (8g.) was eluted with chloroform down a silica gel column. The product (Rf = 0.1- 0.2 on silica t.l.c. (CHCl3)) was finally distilled to yield diisobutyl-n-heptyl-phosphine oxide as a colourless liquid, bp. 120°-2°/0.03 mm. (Found C 68.8; H 13.0; C15H33OP requires C 69.3; H, 12.7%.

reactant | di-isobutylphosphinyl chloride | C(C(C)C)P(=O)(CC(C)C)Cl | C8H18ClOP
reactant | n-heptylmagnesium bromide | 0.05 mole, 100 ml, 1.2g | C(CCCCCC)[Mg]Br
reactant | HCl | 2N, 300 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | diisobutyl-n-heptyl-phosphine oxide | C(C(C)C)P(CCCCCCC)(CC(C)C)=O | C15H33OP
